US06326369B1
2,3-Dimethoxy-7-[2-(2-oxo-1,2-dihydro-1-pyridyl)ethyl]-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione
To a mixture of 1-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl]-1,2-dihydro-2-pyridinone (334 mg), pyridine-2,6-dicarboxylic acid (433 mg), THF (8 ml), and water (4 ml) was added an water (4 ml) solution of CAN (1.89 g) with cooling with ice. After being stirred for 15 min, the reaction mixture was diluted with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was recrystallized from diisopropylether to obtain the entitled compound (195 mg).

reactant | 1-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl]-1,2-dihydro-2-pyridinone | 334 mg | COC1=C(C(=C(C2=C1CCC(CC2)CCN2C(C=CC=C2)=O)OC)OC)OC | C22H29NO5
reactant | pyridine-2,6-dicarboxylic acid | 433 mg | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | CAN | 1.89 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 4 ml | O | H2O
solvent | water | 4 ml | O | H2O
product | 2,3-Dimethoxy-7-[2-(2-oxo-1,2-dihydro-1-pyridyl)ethyl]-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione | 195 mg | COC1=C(C(C2=C(CCC(CC2)CCN2C(C=CC=C2)=O)C1=O)=O)OC | C20H23NO5
